US03933804
EXAMPLE 52: 4-(4-Isobutoxy-3-methyl-2-butenyloxy)-benzoic methyl ester (according to process b)
A solution of 6.0 g (0.02 mol) of 4-(4-bromo-3-methyl-2-butenyloxy)-benzoic methyl ester and 2.9 g (0.03 mol) of sodium-isobutylate in 130 g of isobutanol is stirred at 70° for 6 hours. After this period the reaction mixture is filtered, the filtrate is evaporated at reduced pressure. The residue is dissolved in ether, the ether solution is washed with saturated salt solution, dried with sodium sulphate and evaporated. The residue (6.5 g) is dissolved in 50 cc of absolute methanol, 0.54 g (0.01) mol of sodium methylate is added and the mixture is boiled under reflux for 2 hours. After this period 40 cc of methanol are distilled off. The remaining residue is dissolved in 100 cc of ether, the ether solution is extracted twice with 100 cc amounts of saturated salt solution and dried with sodium sulphate. The ether is distilled off and the resulting 4-(4-isobutoxy-3-methyl-2-butenyloxy)-benzoic methyl ester is purified by chromatography on silica gel with hexane/ethyl acetate 20 : 1. nD20 = 1.5151.

reactant | 4-(4-bromo-3-methyl-2-butenyloxy)-benzoic methyl ester | 0.02 mol, 6.0 g | COC(C1=CC=C(C=C1)OCC=C(CBr)C)=O | C13H15BrO3
solvent | isobutanol | 130 g | C(C(C)C)O | C4H10O
product | 4-(4-Isobutoxy-3-methyl-2-butenyloxy)-benzoic methyl ester | COC(C1=CC=C(C=C1)OCC=C(COCC(C)C)C)=O | C17H24O4
